US06559173B1
3-({5-[4-(3-Morpholin-4-yl-propoxy)-benzyl]-2H-pyrazol-3-ylamino}-methylene)1,3-dihydro-indol-2-one
The named compound is prepared by substituting 5-[4-(3-morpholin-4-yl-propoxy)-benzyl]-2H-pyrazol-3-ylamine for 3-aminopyrazole in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one (0.017 gms.) is reacted with 0.048 gms. of 5-[4-(3-morpholin-4-yl-propoxy)-benzyl]-2H-pyrazol-3-ylamine by refluxing in tetrahydrofuran (1.0 mL). Recrystallization from a mixture of ethyl acetate and hexanes affords the named compound.

reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | 0.017 gms | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 5-[4-(3-morpholin-4-yl-propoxy)-benzyl]-2H-pyrazol-3-ylamine | N1(CCOCC1)CCCOC1=CC=C(CC=2C=C(NN2)N)C=C1 | C17H24N4O2
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | 3-({5-[4-(3-Morpholin-4-yl-propoxy)-benzyl]-2H-pyrazol-3-ylamino}-methylene)1,3-dihydro-indol-2-one | N1(CCOCC1)CCCOC1=CC=C(CC=2C=C(NN2)NC=C2C(NC3=CC=CC=C23)=O)C=C1 | C26H29N5O3
